US08802858B2
[4-(2-{2-[4-(2-Cyano-ethylamino)-furazan-3-yl]-benzoimidazol-1-yl}-acetyl)-phenyl]-carbamic acid benzyl ester
To a stirred solution of 11.1 g of 3-[4-(1H-benzoimidazol-2-yl)-furazan-3-ylamino]-propionitrile (95%, 41.5 mmol, 1 eq) in 90 ml of N,N-dimethylformamide are added 7.84 g of potassium carbonate (56.8 mmol, 1.3 eq), followed by 23.25 g of [4-(2-bromo-acetyl)-phenyl]-carbamic acid benzyl ester (75%, 50.1 mmol, 1.2 eq). The reaction mixture is stirred for 4 h at room temperature. Then 700 ml of water are added and the resulting suspension is extracted with 3×800 ml of ethyl acetate. The combined organic layers are washed with water and brine, dried over Na2SO4, filtered and concentrated to give the crude product as dark brown solid. This crude product is suspended in 150 ml of a 2/1 ethyl acetate/methanol mixture. Filtration provides 12.63 g of the desired product as light brown powder.

reactant | 3-[4-(1H-benzoimidazol-2-yl)-furazan-3-ylamino]-propionitrile | 41.5 mmol, 11.1 g, 1 eq | N1C(=NC2=C1C=CC=C2)C=2C(=NON2)NCCC#N | C12H10N6O
reactant | potassium carbonate | 56.8 mmol, 7.84 g, 1.3 eq | C([O-])([O-])=O.[K+].[K+]
reactant | [4-(2-bromo-acetyl)-phenyl]-carbamic acid benzyl ester | 50.1 mmol, 23.25 g, 1.2 eq | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)C(CBr)=O)=O | C16H14BrNO3
reactant | water | 700 ml | O | H2O
solvent | N,N-dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | [4-(2-{2-[4-(2-Cyano-ethylamino)-furazan-3-yl]-benzoimidazol-1-yl}-acetyl)-phenyl]-carbamic acid benzyl ester | 12.63 g | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)C(CN1C(=NC2=C1C=CC=C2)C2=NON=C2NCCC#N)=O)=O | C28H23N7O4
